US07569578B2
(±)-tert-Butyl 1-(1-(3-cyanobenzyl)-1H-imidazol-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate
tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate (80 mg, 0.17 mmol), 3-cyano benzyl bromide (35.0 mg, 0.18 mmol, 1.05 equiv), and potassium carbonate (47.0 mg, 0.34 mmol) were combined in dimethylformamide (1.5 mL). After stirring at room temperature for 16 h, the solvents were removed and the residue purified by column chromatography to afford 85.0 mg (85%).

reactant | tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate | 0.17 mmol, 80 mg | C(C)(C)(C)OC(NC(CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)C=1NC=CN1)=O | C24H37N5O3Si
reactant | 3-cyano benzyl bromide | 0.18 mmol, 35.0 mg, 1.05 equiv | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
reactant | potassium carbonate | 0.34 mmol, 47.0 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | (±)-tert-Butyl 1-(1-(3-cyanobenzyl)-1H-imidazol-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate | C(#N)C=1C=C(CN2C(=NC=C2)C(CC2=CC3=CN(N=C3C(=C2)C)COCC[Si](C)(C)C)NC(OC(C)(C)C)=O)C=CC1 | C32H42N6O3Si
